US07223782B2
3-Trifluoromethyl benzylamine (0.014 mL, 0.100 mmole) was added to a suspension of 1-(4-fluoro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid (0.030 g; 0.109 mmol) and PS-Carbodiimide (0.2 g) in methylene chloride (2 mL). The reaction mixture was shaken at room temperature for 12 h at which time the reaction mixture was filtered and concentrated to give 1-(4-fluoro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid 3-trifluoromethyl-benzylamide. LCMS m/z=432.3 (M+H)+.

reactant | 3-Trifluoromethyl benzylamine | 0.100 mmole, 0.014 mL | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
reactant | 1-(4-fluoro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid | 0.109 mmol, 0.030 g | FC1=CC=C(C=C1)N1N=CC(=C1C(F)(F)F)C(=O)O | C11H6F4N2O2
reactant | Carbodiimide | 0.2 g | N=C=N | CH2N2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-fluoro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid 3-trifluoromethyl-benzylamide | FC(C=1C=C(CNC(=O)C=2C=NN(C2C(F)(F)F)C2=CC=C(C=C2)F)C=CC1)(F)F | C19H12F7N3O
